US09145414B2
Phenylboronic acid (244 mg), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (1:1, 40 mg), dioxane (4 mL), a 2 M aqueous sodium carbonate solution (1 mL), and the reaction solution were added to 7-bromo-2-methyl-5-nitro-2H-indazole obtained in the above-described Step 1 (256 mg). The reaction solution was allowed to react in a microwave reactor at 130° C. for 1 hour. The solvent was evaporated under vacuum, and the resultant residue was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate) to obtain 2-methyl-5-nitro-7-phenyl-2H-indazole.

reactant | Phenylboronic acid | 244 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2 M, 1 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 7-bromo-2-methyl-5-nitro-2H-indazole | BrC1=CC(=CC2=CN(N=C12)C)[N+](=O)[O-] | C8H6BrN3O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 40 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 2-methyl-5-nitro-7-phenyl-2H-indazole | CN1N=C2C(=CC(=CC2=C1)[N+](=O)[O-])C1=CC=CC=C1 | C14H11N3O2
